US04797492
3-Trifluoromethyl-5-aminoisoxazole
A 15% solution of n-butyllithium in n-hexane (500 ml) was added to diisopropylamine (116.5 ml) dissolved in dry tetrahydrofuran (720 ml), keeping below 0° C. After being stirred at 0° C. for 30 minutes, the solution was cooled below -72° C. A solution of methyl trifluoroacetate (46.28 g, 0.3614 mole), acetonitrile (29.67 g) and dry tetrahydrofuran (300 ml) were added dropwise, keeping below -72° C., and the solution, after being kept at -75° C. for additional 45 minutes, was warmed to room temperature over 1 hour. Ice-water (360 ml) was added to the solution and tetrahydrofuran and n-hexane were then evaporated under reduced pressure in a water bath at 40° C. The resulting residue was extracted with diethylether to remove neutral and basic components. It was adjusted to pH 1 with 36% HCl and then extracted with methylene chloride to remove by-products such as acetoacetonitrile. The solution was extracted with diethyl ether. p-Toluenesulfonic acid (0.07 g, 0.0003614 mole) was added to the extract and diethyl ether was distilled off at atmospheric pressure (in a water bath at 60° C.) by using a distillation apparatus equipped with a fractionating column. The resulting residue was distilled under reduced pressure at room temperature to give a crude product (56.44 g, 114%). Methanol (651 ml) and 97% hydroxylamine hydrochloride (33.66 g, 0.4698 mole) were added to this product and the mixture was heated under reflux for 68 hours. Methanol was distilled off under reduced pressure and ice-water (240 ml) was added to the resulting residue. This was adjusted above pH 11 with a 48% solution of sodium hydroxide and after being extracted with methylene chloride, the solvent was evaporated. The resulting residue was then distilled under reduced pressure to give the title compound (34.13 g, 62.1%) as pale red crystals, b.p. 85°-88° C./3.5 mmHg. This compound was recrystallized from benzene-cyclohexane to give colorless plates, m.p. 57°-58° C. The structure of this compound was confirmed by IR, NMR, UV and elemental analysis.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diisopropylamine | 116.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl trifluoroacetate | 0.3614 mole, 46.28 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | hydroxylamine hydrochloride | 0.4698 mole, 33.66 g | Cl.NO
solvent | n-hexane | 500 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 720 ml | O1CCCC1 | C4H8O
catalyst | p-Toluenesulfonic acid | 0.0003614 mole, 0.07 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | Methanol | 651 ml | CO | CH4O
solvent | acetonitrile | 29.67 g | C(C)#N | C2H3N
product | 3-Trifluoromethyl-5-aminoisoxazole | 34.13 g, 62.1% | FC(C1=NOC(=C1)N)(F)F | C4H3F3N2O
